US09029391B2
tert-Butoxy-[4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester
To a solution of [4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-hydroxy-acetic acid methyl ester (114 mg, 0.31 mmol) in t-BuOAc (10 ml) was added HClO4 (0.17 ml, 1.11 mmol). The reaction mixture was stirred at RT overnight. TLC showed most SM consumed, ended the reaction, added ice-water, adjusted to pH=6 by adding 1N aq NaHCO3, extracted with EA, washed with water and brine, dried over Na2SO4 and concentrated to dryness. The residue was purified by pre-TLC to afford title product. (m=57 mg, yield=43.2%).

reactant | [4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-hydroxy-acetic acid methyl ester | 0.31 mmol, 114 mg | COC(C(O)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)F)F)=O)C)=O | C19H15F2NO4
reactant | NaHCO3 | 1N | C(=O)(O)[O-].[Na+]
solvent | t-BuOAc | 10 ml | C(C)(C)(C)OC(=O)C | C6H12O2
product | tert-Butoxy-[4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | yield=43.2% | COC(C(C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)F)F)=O)C)OC(C)(C)C)=O | C23H23F2NO4
